US05801179
N-[2-(2,3-dimethoxyphenoxy)ethyl]-N'-2-pyrimidinyl-1,3-propanediamine;
2-[2-[[3-(2-pyrimidinylamino)propyl]amino]ethoxy]phenol; N-[2-(2,3-dimethoxy- phenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine; N-[2-(2-methoxyphenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propane diamine; N-[2-(2-ethoxyphenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)- 1,3-propanediamine; N-[3-(2-methoxyphenoxy)propyl]-N'-( 1,4,5,6-tetrahydro-2- pyrimidinyl)-1,3-propanediamine; N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]- ethyl]-N'-2-pyrimidinyl-1,3-propanediamine; N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)- oxy]ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine; N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]ethyl]-N'-(1,4,5,6-tetrahydro-2- pyrimidinyl)-1,4-butanediamine; N-[2-(1-naphthalenyloxy)ethyl]- N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine, the pharmaceutically acceptable acid addition salt thereof or the stereochemically isomeric forms thereof.

reactant | 2-[2-[[3-(2-pyrimidinylamino)propyl]amino]ethoxy]phenol | N1=C(N=CC=C1)NCCCNCCOC1=C(C=CC=C1)O | C15H20N4O2
reactant | N-[2-(2,3-dimethoxy- phenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | COC1=C(OCCNCCCNC=2NCCCN2)C=CC=C1OC | C17H28N4O3
reactant | N-[2-(2-methoxyphenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propane diamine | COC1=C(OCCNCCCNC=2NCCCN2)C=CC=C1 | C16H26N4O2
reactant | N-[2-(2-ethoxyphenoxy)ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)- 1,3-propanediamine | C(C)OC1=C(OCCNCCCNC=2NCCCN2)C=CC=C1 | C17H28N4O2
reactant | N-[3-(2-methoxyphenoxy)propyl]-N'-( 1,4,5,6-tetrahydro-2- pyrimidinyl)-1,3-propanediamine | COC1=C(OCCCNCCCNC=2NCCCN2)C=CC=C1 | C17H28N4O2
reactant | N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]- ethyl]-N'-2-pyrimidinyl-1,3-propanediamine | O1CCOC2=C1C=CC=C2OCCNCCCNC2=NC=CC=N2 | C17H22N4O3
reactant | N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)- oxy]ethyl]-N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | O1CCOC2=C1C=CC=C2OCCNCCCNC=2NCCCN2 | C17H26N4O3
reactant | N-[2-[(2,3-dihydro-1,4-benzodioxin-5-yl)oxy]ethyl]-N'-(1,4,5,6-tetrahydro-2- pyrimidinyl)-1,4-butanediamine | O1CCOC2=C1C=CC=C2OCCNCCCCNC=2NCCCN2 | C18H28N4O3
reactant | N-[2-(1-naphthalenyloxy)ethyl]- N'-(1,4,5,6-tetrahydro-2-pyrimidinyl)-1,3-propanediamine | C1(=CC=CC2=CC=CC=C12)OCCNCCCNC=1NCCCN1 | C19H26N4O
product | N-[2-(2,3-dimethoxyphenoxy)ethyl]-N'-2-pyrimidinyl-1,3-propanediamine | COC1=C(OCCNCCCNC2=NC=CC=N2)C=CC=C1OC | C17H24N4O3
